US09034900B2
Step 1: 2-bromo-4-ethylsulfonyl-1-propoxybenzene
To a solution of n-propanol (224 mg, 3.74 mmol) in THF (10 mL) was added NaH (112 mg, 2.80 mmol, 60% in mineral oil) at 0° C. After stirring at 0° C. for 30 min, 2-bromo-4-(ethanesulfonyl)-1-fluorobenzene (500 mg, 1.87 mmol) was added and the mixture was stirred at room temperature for 4 h. Addition of saturated NH4Cl (10 mL) followed by EA extractive work up gave the title compound (300 mg, yield: 52.3%) which was carried on directly.

reactant | n-propanol | 3.74 mmol, 224 mg | C(CC)O | C3H8O
reactant | NaH | 2.80 mmol, 112 mg | [H-].[Na+]
reactant | 2-bromo-4-(ethanesulfonyl)-1-fluorobenzene | 1.87 mmol, 500 mg | BrC1=C(C=CC(=C1)S(=O)(=O)CC)F | C8H8BrFO2S
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-bromo-4-ethylsulfonyl-1-propoxybenzene | 300 mg, yield: 52.3% | BrC1=C(C=CC(=C1)S(=O)(=O)CC)OCCC | C11H15BrO3S
